US08383821B2
N-bromosuccinimide (2.24 g, 12.6 mmol) was added to a 0° C. solution of 3′-(hydroxymethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (1.66 g, 6.0 mmol) and triphenylphosphine (3.14 g, 12.0 mmol) in THF (100 mL). The reaction was warmed to ambient temperature and stirred for 18 hours. The solvent was evaporated and the residue was purified by chromatography on SiO2 with a gradient of ethyl acetate/hexanes of 5% to 40%. The product 3′-(bromomethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (1.30 g, 64%) was obtained as a white solid. 1H-NMR (CDCl3, 400 MHz) δ 7.65-7.80 (m, 7H), 4.56 (s, 2H).

reactant | N-bromosuccinimide | 12.6 mmol, 2.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3′-(hydroxymethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 6.0 mmol, 1.66 g | OCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C15H10F3NO
reactant | triphenylphosphine | 12.0 mmol, 3.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3′-(bromomethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 1.30 g, 64% | BrCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C15H9BrF3N
